Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cesarean scar ectopic
 
Major Surgical or Invasive Procedure:
intrasac injection of methotrexate

 
History of Present Illness:
Ms. ___ presented to  ___ maternal-fetal medicine for 
consultation for her recent diagnosis of a cesarean scar 
ectopic.  She had been seen at multiple centers,including ___ 
ED last evening.  She reported  having some
cramping and spotting. She denied pain or heavy bleeding.
The remainder of the review of symptoms was negative.

 
Past Medical History:
OB Labs:
___ 08:26PM BLOOD WBC: 6.1 RBC: 4.35 Hgb: 11.3 Hct: 36.0
MCV: 83 MCH: 26.0 MCHC: 31.4* RDW: 16.6* RDWSD: 49.9* Plt Ct: 
203

___ 08:26PM BLOOD HCG: 6140 
Dating:

OBHx:
___: LTCS, arrest of dilation, Boy, ___.
___: LTCS, elective, Boy, ___
___: LTCS, elective, Boy, ___
___: TAB
___: 7wks SAB, D+C

GYNHx:
Endometriosis
Ovarian Cysts
Hx of abnormal PAP, resolved

PMHx:
Thryoid lesion, followed by endocrinology, euthyroid
Anxiety and panic attacks

PSHx:
Laparoscopy
LTCS x3
ERCP with sphincterotomy

 
Social History:
___
Family History:
Not applicable
 
Physical Exam:
Physical Exam Upon Presentation: 
BP: 129/61. Heart Rate: 84. O2 Saturation%: 100. Weight: 144
(With Clothes). BMI: 24.7. Temperature: 98.5.
NAD
+s1s2
CTA B/L
Abd: Nontender

Physical Exam On Discharge:
Vitals: 
98.5 92/57 68 18 99 Ra 
Gen: [x] NAD
Resp: [x] No evidence of respiratory distress
Abd: [x] soft  [x] non-tender 
Ext: [x] no edema [x] non-tender

 
Pertinent Results:
___ 08:26PM BLOOD WBC-6.1 RBC-4.35 Hgb-11.3 Hct-36.0 MCV-83 
MCH-26.0 MCHC-31.4* RDW-16.6* RDWSD-49.9* Plt ___
___ 08:26PM BLOOD Neuts-56.3 ___ Monos-6.4 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-3.44 AbsLymp-2.12 AbsMono-0.39 
AbsEos-0.09 AbsBaso-0.05
___ 12:32PM BLOOD ___ PTT-25.7 ___
___ 08:26PM BLOOD Plt ___
___ 08:26PM BLOOD ___ PTT-26.7 ___
___ 12:32PM BLOOD ___ 08:26PM BLOOD Glucose-88 UreaN-5* Creat-0.6 Na-140 
K-3.7 Cl-103 HCO3-23 AnGap-14
___ 12:32PM BLOOD ALT-12 AST-21
___ 12:32PM BLOOD HCG-6339
___ 08:26PM BLOOD HCG-6140
___ 09:30PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 09:30PM URINE Blood-TR* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:30PM URINE RBC-4* WBC-2 Bacteri-FEW* Yeast-NONE 
Epi-3

___ 9:30 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
 
Brief Hospital Course:
Ms. ___ is a ___ year old G6P3 who presented for management of 
known cesarean scar ectopic pregnancy. The cesarean scar ectopic 
was confirmed on ultrasound at the ___. Her HCG was 6339 on the 
day of presentation. She underwent local treatment with intrasac 
methotrexate injection via ultrasound guidance. She was then 
admitted to the antepartum service for observation. She also 
received her first dose of IM methotrexate as part of her multi 
dose methotrexate regimen (1mg/kg Day 1) followed by leucovorin 
(0.1mg/kg) PO on day 2. On Day 2 of treatment (Post operative 
day 1), she receive leucovorin and was then deemed stable for 
discharge. She was due to return for day 3 labs. 
 
Medications on Admission:
lorazepam
 
Discharge Medications:
1.  LORazepam 1 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cesarean scar ectopic pregnancy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for management of your 
cesarean scar ectopic pregnancy. On ___, you underwent an 
interventional radiology guided procedure to inject methotrexate 
into the gestational sac in your uterus. You also received an 
intramuscular dose of methotrexate that day. On ___, you 
received a medication called leucovorin to protect your blood 
cells from the side effects of methotrexate. You did well after 
the procedure, and thus you were deemed stable for discharge on 
___. 

Please call if 
- sudden onset of severe abdominal pain 
- substantial increase in abdominal pain 
- vaginal bleeding
- nausea, vomiting
- abdominal pain, cramping
- lightheadedness, dizziness
- rash
- sores in mouth 

Please avoid:
- vitamins that contain folic acid (such as prenatal vitamins)
- alcoholic beverages
- NSAIDs (like ibuprofen, advil, aleve)
- excessive sunlight exposure
- sexual intercourse 
 
Followup Instructions:
___